US05597825
3-Amino-4'-cyano-4-(5-methoxycarbonylpentyloxy)biphenyl
Prepared from 4-cyano-4'-(5-methoxycarbonyl-pentyloxy)-3'-nitro-biphenyl by hydrogenating with hydrogen under 5 bars of pressure in methanol in the presence of 10% palladium/charcoal at ambient temperature.

reactant | 4-cyano-4'-(5-methoxycarbonyl-pentyloxy)-3'-nitro-biphenyl | C(#N)C1=CC=C(C=C1)C1=CC(=C(C=C1)OCCCCCC(=O)OC)[N+](=O)[O-] | C20H20N2O5
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | palladium/charcoal | [Pd] | Pd
product | 3-Amino-4'-cyano-4-(5-methoxycarbonylpentyloxy)biphenyl | NC=1C=C(C=CC1OCCCCCC(=O)OC)C1=CC=C(C=C1)C#N | C20H22N2O3
